* Z:\Dev\04 - LTspice\Simulations\Booster\Booster.asc
C1 N010 N009 100n
R1 Vb N010 3.9Meg
R2 N011 N010 10k
R3 Vr N001 47R
C2 Vr 0 100n
C3 Vr 0 100µ
R4 Vb Vr 10k
R5 0 Vb 10k
C4 Vb 0 47µ
XU2 N006 N003 N004 pot_lin Rtot=100K wiper={tone}
C5 N006 N007 10n
XU3 N009 0 EGUITAR
R6 N005 N007 22k
R7 N003 N005 22k
C6 0 N005 10n
C7 N008 N007 4.7µ
XU4 N008 0 N012 pot_lin Rtot=100K wiper={volume}
XU1 N011 N004 Vr 0 N007 TL081 TL081
R8 N002 N004 5k
C8 0 N002 4.7µ
V1 N001 0 9V
* .ac oct 40 20 20K
.tran 0 25ms 20ms
.param tone 0.5
.step param volume 0.1 1 0.1
.include eguitar.lib
.include potentiometer_standard.lib
.include tl081.lib
.lib eguitar.lib
.lib TL081.lib
.backanno
.end
